US09428477B2
Production of 1-((E)-2-Decenoyl)pyrrolidine) [Compound 1]
A tetrahydrofuran solution (20 mL) of pyrrolidine (0.71 g, 0.01 mol) containing pyridine (0.79 g, 0.01 mol) was added to a tetrahydrofuran solution (20 mL) of (E)-2-decenoic acid chloride (1.9 g, 0.01 mol), synthesized using (E)-2-decenoic acid and thionyl chloride, and the mixture was heated under refluxing in a warm water bath for 3 hours. After distilling off excess tetrahydrofuran, water was added to a liquid reaction mixture, and the liquid mixture was extracted with ethyl acetate, and washed with water, and ethyl acetate was distilled off. The residue was purified with silica gel column chromatography (developing solvent:hexane:ethyl acetate=1:3), to give an intended compound (1.4 g) in the form of a colorless oily substance.

reactant | pyrrolidine | 0.01 mol, 0.71 g | N1CCCC1 | C4H9N
reactant | pyridine | 0.01 mol, 0.79 g | N1=CC=CC=C1 | C5H5N
reactant | (E)-2-decenoic acid chloride | 0.01 mol, 1.9 g | C(\C=C\CCCCCCC)(=O)Cl | C10H17ClO
reactant | (E)-2-decenoic acid | C(\C=C\CCCCCCC)(=O)O | C10H18O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1-((E)-2-Decenoyl)pyrrolidine | 1.4 g | C(\C=C\CCCCCCC)(=O)N1CCCC1 | C14H25NO
